US07361672B2
A solution of 163 mg N-{4-[(2′-tert-butylsulfamoyl-3-fluoro-biphenyl-4-ylcarbamoyl)-methyl]-thiazol-2-yl}-4-chloro-benzamide in 8 ml CHCl3/MeOH 3:1 was cooled to −10° C. A stream of HCl gas was passed over the stirred solution for 10 min. The reaction mixture was kept at 4° C. over night, then concentrated. The crude product was purified by chromatography on silica using a gradient from CH2Cl2 to CH2Cl2/MeOH 9:1 in 20 minutes to give 112 mg 4-chloro-N-{4-[(3-fluoro-2′-sulfamoyl-biphenyl-4-ylcarbamoyl)-methyl]-thiazol-2-yl}-benzamide as white solid. MS 545.3 ([M+H]+)

reactant | N-{4-[(2′-tert-butylsulfamoyl-3-fluoro-biphenyl-4-ylcarbamoyl)-methyl]-thiazol-2-yl}-4-chloro-benzamide | 163 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)NC(=O)CC=1N=C(SC1)NC(C1=CC=C(C=C1)Cl)=O)F | C28H26ClFN4O4S2
reactant | HCl | Cl | ClH
solvent | CHCl3 MeOH | 8 ml | C(Cl)(Cl)Cl.CO
product | 4-chloro-N-{4-[(3-fluoro-2′-sulfamoyl-biphenyl-4-ylcarbamoyl)-methyl]-thiazol-2-yl}-benzamide | 112 mg | ClC1=CC=C(C(=O)NC=2SC=C(N2)CC(NC2=C(C=C(C=C2)C2=C(C=CC=C2)S(N)(=O)=O)F)=O)C=C1 | C24H18ClFN4O4S2
